US09447091B2
N-(2′,4′-difluoro-5-(5-(1-methyl-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl) thiazol-2-amine
The compound was prepared from 1-(5-bromo-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1H-benzo[d]imidazole (0.05 g, 0.107 mmol) using the procedure of Example 280 and thiazol-2-amine (0.01 g, 0.10 mmol, 1.0 eq.) to yield the title product in 11.7% yield (0.06 g). 1H NMR (400 MHz CD3OD): δ 9.45 (s, 1H), 8.39 (s, 1H), 8.11 (s, 1H), 8.01 (s, 1H), 7.94 (s, 1H), 7.86-7.83 (m, 2H), 7.74 (s, 1H), 7.67-7.65 (m, 1H), 7.45 (s, 1H), 7.28-7.27 (d, 1H), 7.16-7.11 (m, 2H), 6.89 (d, 1H), 3.95 (s, 3H) LC-MS (ESI): Calculated mass: 484.52; Observed mass: 485.2 [M+H]+ (rt: 1.01 min).

reactant | 1-(5-bromo-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1H-benzo[d]imidazole | 0.107 mmol, 0.05 g | BrC=1C=C(C=C(C1)C1=C(C=C(C=C1)F)F)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)C | C23H15BrF2N4
reactant | thiazol-2-amine | 0.10 mmol, 0.01 g, 1.0 eq. | S1C(=NC=C1)N | C3H4N2S
product | N-(2′,4′-difluoro-5-(5-(1-methyl-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl) thiazol-2-amine | 11.7% yield | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)C)NC=2SC=CN2 | C26H18F2N6S
